US05190975
In the same manner as described in Example 1-(1), (2-formylaminoindan-5-yl)acetic acid (2.20 g) and methyl γ-aminobutyrate are reacted to give methyl 4-[(2-formylaminoindan-5-yl)acetylamino]-n-butyrate (2.57 g).

reactant | (2-formylaminoindan-5-yl)acetic acid | 2.20 g | C(=O)NC1CC2=CC=C(C=C2C1)CC(=O)O | C12H13NO3
reactant | methyl γ-aminobutyrate | NCCCC(=O)OC | C5H11NO2
product | methyl 4-[(2-formylaminoindan-5-yl)acetylamino]-n-butyrate | 2.57 g | C(=O)NC1CC2=CC=C(C=C2C1)CC(=O)NCCCC(=O)OC | C17H22N2O4
